US05801272
Methyl (R)-2-(4-(4-chlorobenzoyloxy)phenoxy)propionate
A mixture of 15.9 g (50 mmol) of methyl (R)-2-(4-(4-chlorobenzoyl)phenoxy)propionate, 25 g (220 mmol) of a 30% strength solution of hydrogen peroxide in water and 200 ml of formic acid was stirred at 35°-40° C. for 13 hours. The mixture was then stirred into a mixture of 0.5 l of methylene chloride and 2 l of water. The organic phase was separated off, dried over sodium sulfate and concentrated under reduced pressure. Yield: 69% (94-95% enantiomeric excess).

reactant | methyl (R)-2-(4-(4-chlorobenzoyl)phenoxy)propionate | 50 mmol, 15.9 g | ClC1=CC=C(C(=O)C2=CC=C(O[C@@H](C(=O)OC)C)C=C2)C=C1 | C17H15ClO4
reactant | hydrogen peroxide | OO | H2O2
reactant | methylene chloride | 0.5 l | C(Cl)Cl | CH2Cl2
reactant | formic acid | 200 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | water | 2 l | O | H2O
product | Methyl (R)-2-(4-(4-chlorobenzoyloxy)phenoxy)propionate | Yield: 69% | ClC1=CC=C(C(=O)OC2=CC=C(O[C@@H](C(=O)OC)C)C=C2)C=C1 | C17H15ClO5
